US07244735B2
1-(2,5-Dichloro-pyrimidin-4-yl)-piperidine-4-carboxylic acid [1-(3-chloro-phenyl)-2-hydroxy-ethyl]-amide:
4-[1 -(3-Chloro-phenyl)-2-hydroxy-ethylcarbamoyl]-piperazine- 1-carboxylic acid tert-butyl ester was deprotected with 10% trifluoroacetic acid in methylene chloride by stirring overnight at ambient temperature. The reaction was concentrated in vacuo and the resulting TFA salt was dissolved in DMF (1 mL) and DIEA (0.25 mL). This mixture was heated with 2,4,5-trichloropyrimidine (52 mg. 0.28 mmol) at 80° C. for 18 hours. Purification by prep HPLC (Gilson: Column=CombiHT SB-C189 5 μM 21.2 mm×100 mm, eluent=0.1% TFA MeCN/H2O gradient) afforded the title compound as a yellow oil (47 mg) Rt=5.97 minutes; MS FIA 429.9 (M+1).

reactant | 4-[1 -(3-Chloro-phenyl)-2-hydroxy-ethylcarbamoyl]-piperazine- 1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C(NC(CO)C1=CC(=CC=C1)Cl)=O | C18H26ClN3O4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2,4,5-trichloropyrimidine | 0.28 mmol, 52 mg | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-(2,5-Dichloro-pyrimidin-4-yl)-piperidine-4-carboxylic acid [1-(3-chloro-phenyl)-2-hydroxy-ethyl]-amide | 47 mg | ClC=1C=C(C=CC1)C(CO)NC(=O)C1CCN(CC1)C1=NC(=NC=C1Cl)Cl | C18H19Cl3N4O2
